US06586467B2
Step I: 5-[(2S)-2-Benzenesulfonylamino-2-(4-methoxy-benzylcarbamoyl)-ethyl]-2-carboxymethoxy-benzoic acid
5-[(2S)-2-Benzenesulfonylamino-2-(4-methoxy-benzylcarbamoyl)-ethyl]-2-methoxycarbonylmethoxy-benzoic acid methyl ester Step H (17 mg, 0.30 mmol) is stirred in 3:2 THF/H2O (3 mL) at RT. Lithium hydroxide monohydrate (20 mg, 0.5 mmol) is added and the reaction is stirred overnight. The mixture is partitioned between EtOAc (15 mL) and 2N HCl (15 mL). The organics are washed with saturated NaCl (1×15 mL), filtered and concentrated to afford the title compound (compound 1), 5-[(2S)-2-benzenesulfonylamino-2-(4-methoxy-benzylcarbamoyl)-ethyl]-2-carboxymethoxy-benzoic acid; 1H NMR (400 MHz, CDCl3) δ7.65 (d, 2H), 7.51 (m, 1H), 7.38 (m, 3H), 7.20 (d, 1H), 7.01 (d, 2H), 6.80 (d, 2H), 6.68 (d, 1H), 4.73 (s, 2H), 4.17 (m, 2H), 3.94 (m, 1H), 3.78 (s, 3H), 2.99 (dd, 1H), 2.91 (dd, 1H); MS (ES−) m/z 541 (M−1).

reactant | 5-[(2S)-2-Benzenesulfonylamino-2-(4-methoxy-benzylcarbamoyl)-ethyl]-2-methoxycarbonylmethoxy-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)C[C@@H](C(NCC1=CC=C(C=C1)OC)=O)NS(=O)(=O)C1=CC=CC=C1)OCC(=O)OC)=O | C28H30N2O9S
reactant | Lithium hydroxide monohydrate | 0.5 mmol, 20 mg | O.[OH-].[Li+]
solvent | THF H2O | 3 mL | C1CCOC1.O
product | 5-[(2S)-2-benzenesulfonylamino-2-(4-methoxy-benzylcarbamoyl)-ethyl]-2-carboxymethoxy-benzoic acid | C1(=CC=CC=C1)S(=O)(=O)N[C@@H](CC=1C=CC(=C(C(=O)O)C1)OCC(=O)O)C(NCC1=CC=C(C=C1)OC)=O | C26H26N2O9S
